US06462041B1
9,10-Dihydrogambogic Acid
To a solution of gambogic acid (17 mg, 0.027 mmol) in methylenechloride (2 mL) was added L-selectride solution in THF (1.0 mL, 0.5 mmol) dropwise at −78° C. After 30 min of stirring, the reaction was quenched with 1 mL of 2 N HCl. The mixture was then allowed to warm to room temperature and was diluted with 1:1 hexane/EtOAc (50 mL). The resulting mixture was washed with water and brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by chromatography (2:3 hexane/EtOAc/) to give the title compound as an oil (0.6 mg, 0.001 mmol, 4%). 1H NMR (CDCl3): 11.96 (s, 1H), 6.67 (d, J=10.2, 1H), 6.54 (t, J=6.6, 1H), 5.46 (d, J=10.2, 1H), 5.13-5.05 (m, 2H), 3.33-3.16 (m, 3H), 2.85 (d, J=13.8, 1H), 2.60 (d, J=8.7, 1H), 2.43 (s, 1H), 2.08 (m, 1H), 1.97 (s, 3H), 1.74 (s, 3H), 1.67 (s, 6H), 1.64 (s, 3H), 1.57 (s, 3H), 1.37 (s, 3H), 1.36 (d, J=6.9, 3H), 1.31-1.22 (m, 5H), 1.14 (s, 3H).

reactant | gambogic acid | 0.027 mmol, 17 mg | CC(=CCC[C@@]1(C=CC=2C(=C3C(=C(C2O1)CC=C(C)C)O[C@@]45[C@H]6C[C@@H](C=C4C3=O)C(=O)[C@@]5(OC6(C)C)C/C=C(/C)\C(=O)O)O)C)C | C38H44O8
reactant | L-selectride | CCC([BH-](C(CC)C)C(CC)C)C.[Li+]
reactant | THF | 0.5 mmol, 1.0 mL | C1CCOC1 | C4H8O
solvent | methylenechloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 9,10-Dihydrogambogic Acid | 0.001 mmol, 0.6 mg, 4% | CC(=CCC[C@@]1(C=CC=2C(=C3C(=C(C2O1)CC=C(C)C)O[C@@]45[C@H]6C[C@@H](CC4C3=O)C(=O)[C@@]5(OC6(C)C)C/C=C(/C)\C(=O)O)O)C)C | C38H46O8
